US04125530
To a solution of sodium acetate trihydrate (5.8 g.) in water (20 ml.) is added 1,1-dibromo-3,3,3-trifluoroacetone (5.9 g., 0.022 mole). The solution is heated 45 minutes at steam bath temperature and then cooled. The solution is added to a solution of 2-methylisonicotinaldehyde (2.4 g., 0.02 mole) in methanol (100 ml.) and concentrated aqueous ammonia (25 ml.). The reaction mixture is allowed to stand 4.5 hours at room temperature. The reaction mixture is concentrated under reduced pressure; an oil separates and solidifies and this is filtered (0.6 g.) after recrystallization from a mixture of water and ethanol to afford 2-methyl-4-pyridyl)-4-trifluoromethylimidazole, m.p., 195°-197° C.

reactant | sodium acetate trihydrate | 5.8 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 1,1-dibromo-3,3,3-trifluoroacetone | 0.022 mole, 5.9 g | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | 2-methylisonicotinaldehyde | 0.02 mole, 2.4 g | CC=1C=C(C=O)C=CN1 | C7H7NO
reactant | ammonia | 25 ml | N | H3N
solvent | water | 20 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 4-trifluoromethylimidazole | FC(C=1N=CNC1)(F)F | C4H3F3N2
